US05468766
1-Ethyl-1,5,6,7-tetrahydro-4H-indazol-4-one
Prepared analogously to Example 1 starting from ethylhydrazine and 2-(dimethylaminomethylene)-cyclohexane-1,3-dione.

reactant | ethylhydrazine | C(C)NN | C2H8N2
reactant | 2-(dimethylaminomethylene)-cyclohexane-1,3-dione | CN(C)C=C1C(CCCC1=O)=O | C9H13NO2
product | 1-Ethyl-1,5,6,7-tetrahydro-4H-indazol-4-one | C(C)N1N=CC=2C(CCCC12)=O | C9H12N2O
